US08492548B2
(S)—((R)-quinuclidin-3-yl) 2-(4-fluorophenylamino)-2-phenylacetate (1S,2S)-1,2-dicarboxyethane-1,2-bis(olate) (diastereomer 2 of 18) (150 mg, 0.35 mmol) was dissolved in EtOAc (50 ml) and washed with a satured Na2CO3 solution (25 ml). The organic phase was dried over Na2SO4, and the solvent was removed in vacuo giving (S)—((R)-quinuclidin-3-yl) 2-(4-fluorophenylamino)-2-phenylacetate (60.0 mg, 0.17 mmol). This compound was dissolved in acetonitrile (2.5 ml), and 2-bromo-1-(4-hydroxyphenyl)-ethanone (36.0 mg, 0.17 mmol) was added. The reaction mixture was stirred at r.t. for 24 hours. The solvent was removed under vacuum and crude was purified by preparative HPLC to afford (R)-3-((S)-2-(4-fluorophenylamino)-2-phenylacetoxy)-1-(2-(4-hydroxyphenyl)-2-oxoethyl)-1-azoniabicyclo[2.2.2]octane 2,2,2-trifluoroacetate (23.5 mg, 23% yield).

reactant | (S)—((R)-quinuclidin-3-yl) 2-(4-fluorophenylamino)-2-phenylacetate (1S,2S)-1,2-dicarboxyethane-1,2-bis(olate) | 0.35 mmol, 150 mg | C(=O)(O)[C@H]([C@H]([O-])C(=O)O)[O-].FC1=CC=C(C=C1)N[C@H](C(=O)O[C@H]1CN2CCC1CC2)C2=CC=CC=C2
solvent | EtOAc | 50 ml | CCOC(=O)C | C4H8O2
product | (S)—((R)-quinuclidin-3-yl) 2-(4-fluorophenylamino)-2-phenylacetate | 0.17 mmol, 60.0 mg | FC1=CC=C(C=C1)N[C@H](C(=O)O[C@H]1CN2CCC1CC2)C2=CC=CC=C2 | C21H23FN2O2
